US08304419B2
Step B: 4,5-dichloro-N,N-dimethyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide
A solution of 4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonyl chloride (0.826 mmol) in acetone (2.5 mL) and THF (1.5 mL) was added to dimethylamine (2.0 mL of a 2M solution in THF, 4.0 mmol). The reaction mixture was stirred at RT for 1 h and then evaporated to dryness. The residue was taken up in EtOAc and washed with brine. The organic layer was dried (Na2SO4), filtered, evaporated and purified by silica gel chromatography (0-30% EtOAc/hexanes) to provide the title compound (0.18 g, 57%) as a light yellow oil. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 5.62 (s, 2H), 3.61-3.75 (m, 2H), 3.06 (s, 6H), 0.84-1.00 (m, 3H), 0.00 (s, 9H).

reactant | 4,5-dichloro-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonyl chloride | 0.826 mmol | ClC=1N=C(N(C1Cl)COCC[Si](C)(C)C)S(=O)(=O)Cl | C9H15Cl3N2O3SSi
reactant | dimethylamine | CNC | C2H7N
solvent | acetone | 2.5 mL | CC(=O)C | C3H6O
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 4,5-dichloro-N,N-dimethyl-1-({[2-(trimethylsilyl)ethyl]oxy}methyl)-1H-imidazole-2-sulfonamide | 0.18 g, 57% | ClC=1N=C(N(C1Cl)COCC[Si](C)(C)C)S(=O)(=O)N(C)C | C11H21Cl2N3O3SSi
